US04440927
To a stirred suspension of sodium hydride (0.030 g of 50% NaH in mineral oil) in dry DMF (0.5 ml) under nitrogen is added 2,4-dichlorobenzyl phenyl sulfone (0.18 g; 0.6 mmole) as the crystalline solid all at once. The reaction mixture is stirred at room temperature under nitrogen until hydrogen evolution ceases (50 min.) A solution of (2R,4R,6S)-4-benzyloxy-6-iodomethyl-2-methoxy-3,4,5,6-tetrahydro-2H-pyran (0.109 g; 0.3 mmole) in dry DMF (0.4 ml) is added by syringe through a septum. The reaction is stirred for 2.5 hours at room temperature and then partitioned between ether (100 ml) and water (20 ml). The ether layer is extracted with water (4×20 ml), dried (MgSO4), filtered, and the solvent evaporated in vacuo to leave 0.24 g of crude product. Flash chromatography of this product on silica gel with a 30 mm×130 mm column, eluting with 2% (by volume) acetone in methylene chloride, gives 40 mg of the major diastereoisomer and 10 mg of the minor diastereoisomer and 60 mg of a mixture of the two with a total of 110 mg of 1-(2,4-dichlorophenyl)-2-(4(R)-benzyloxy-2(R)-methoxy-3,4,5,6-tetra-hydro-2H-pyran-6(S)-yl)ethyl phenyl sulfone.

reactant | sodium hydride | 0.030 g | [H-].[Na+]
reactant | 2,4-dichlorobenzyl phenyl sulfone | 0.6 mmole, 0.18 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=C(C=C1)Cl)Cl | C13H10Cl2O2S
reactant | hydrogen | [H][H] | H2
reactant | (2R,4R,6S)-4-benzyloxy-6-iodomethyl-2-methoxy-3,4,5,6-tetrahydro-2H-pyran | 0.3 mmole, 0.109 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H](C1)CI)OC | C14H19IO3
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-dichlorophenyl)-2-(4(R)-benzyloxy-2(R)-methoxy-3,4,5,6-tetra-hydro-2H-pyran-6(S)-yl)ethyl phenyl sulfone | 110 mg | C1(=CC=CC=C1)S(=O)(=O)C(C[C@@H]1C[C@H](C[C@@H](O1)OC)OCC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C27H28Cl2O5S
